US09301951B2
(S)—N1-(1-amino-14-methyl-1-oxo-5,8,11-trioxa-2,14-diazahexadecan-16-yl)-N3-(4-(diethylamino)-2-(4-(1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenyl)-N1-methylisophthalamide
This compound was prepared according to the procedure described for the synthesis of (S)—N1-(4-(diethylamino)-2-(4-(1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenyl)-N3-methyl-N3-(17-methyl-1-morpholino-4-oxo-8,11,14-trioxa-3,5,17-triazanonadecan-19-yl)isophthalamide Example 223 substituting ammonia in methanol in place of 2-morpholinoethanamine. Into a 100-mL round-bottom flask, was placed a solution of (S)-4-nitrophenyl 1-(3-(4-(diethylamino)-2-(4-(1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenylcarbamoyl)phenyl)-2,5-dimethyl-1-oxo-8,11,14-trioxa-2,5-diazahexadecan-16-ylcarbamate (100 mg, 0.10 mmol, 1.00 equiv) in NMP (5 mL), methanol (saturated with NH3) (5 mL). The resulting solution was stirred for 3 h at room temperature. The resulting mixture was washed with 2×30 mL of water. The resulting mixture was concentrated under vacuum. The crude product (100 mg) was purified by Prep-HPLC with the following conditions (1#-PreP-HPLC-001(SHIMADZU)): Column, SunFire Prep C18, 19*150 mm 5 um; mobile phase, water with 0.05% TFA and CH3CN (22% CH3CN up to 38% in 6 min, up to 100% in 1 min, down to 22% in 0.7 min); Detector, Waters2545 UvDector 254&220 nm. This resulted in 26 mg (21%) of (S)—N1-(1-amino-14-methyl-1-oxo-5,8,11-trioxa-2,14-diazahexadecan-16-yl)-N3-(4-(diethylamino)-2-(4-(1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenyl)-N1-methylisophthalamide as yellow oil. LC-MS (ES, m/z): 851[M+H]+ H-NMR (300 MHz, CD3OD, ppm): 8.96˜8.94 (d, J=5.1 Hz, 1H), 8.71˜8.68 (m, 1H), 8.38 (s, 1H), 8.16˜8.12 (m, 2H), 7.88 (s, 1H), 7.87˜7.86 (m, 1H), 7.78˜7.73 (m, 2H), 7.58˜7.54 (m, 1H), 7.25˜7.15 (m, 4H), 5.39 (s, 1H), 3.93 (s, 5H), 3.76˜3.61 (m, 12H), 3.57˜3.48 (m, 3H), 3.27˜3.23 (m, 2H), 3.13˜3.09 (m, 5H), 2.91˜2.84 (m, 3H), 2.05˜1.91 (m, 5H), 1.31˜1.22 (m, 6H).

reactant | (S)—N1-(4-(diethylamino)-2-(4-(1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenyl)-N3-methyl-N3-(17-methyl-1-morpholino-4-oxo-8,11,14-trioxa-3,5,17-triazanonadecan-19-yl)isophthalamide | C(C)N(C1=CC(=C(C=C1)NC(C1=CC(C(=O)N(CCN(CCOCCOCCOCCNC(NCCN2CCOCC2)=O)C)C)=CC=C1)=O)C1=NC=CC(=C1)C(N[C@H]1CCCC2=CC=CC=C12)=O)CC | C53H73N9O8
reactant | (S)-4-nitrophenyl 1-(3-(4-(diethylamino)-2-(4-(1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenylcarbamoyl)phenyl)-2,5-dimethyl-1-oxo-8,11,14-trioxa-2,5-diazahexadecan-16-ylcarbamate | 0.10 mmol, 100 mg, 1.00 equiv | C(C)N(C1=CC(=C(C=C1)NC(=O)C=1C=C(C=CC1)C(N(CCN(CCOCCOCCOCCNC(OC1=CC=C(C=C1)[N+](=O)[O-])=O)C)C)=O)C1=NC=CC(=C1)C(N[C@H]1CCCC2=CC=CC=C12)=O)CC | C53H64N8O10
solvent | methanol | CO | CH4O
solvent | NMP | 5 mL | CN1CCCC1=O | C5H9NO
solvent | methanol | 5 mL | CO | CH4O
product | (S)—N1-(1-amino-14-methyl-1-oxo-5,8,11-trioxa-2,14-diazahexadecan-16-yl)-N3-(4-(diethylamino)-2-(4-(1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenyl)-N1-methylisophthalamide | NC(NCCOCCOCCOCCN(CCN(C(C1=CC(C(=O)NC2=C(C=C(C=C2)N(CC)CC)C2=NC=CC(=C2)C(N[C@H]2CCCC3=CC=CC=C23)=O)=CC=C1)=O)C)C)=O | C47H62N8O7
